US05157041
A solution of 730 mg of N-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-(4-methoxyphenyl)butyl]-L-proline tert.butyl ester in 20 ml of ethanol was hydrogenated over 50 mg of 10% palladium-on-carbon for 2 hours. The catalyst was removed by filtration and the filtrate was evaporated to give an oil which was coupled with 340 mg of N-(benzyloxycarbonyl)-L-asparagine in a manner analogous to that described in Example 1. The crude product was chromatographed on a column of silica gel using 10% methanol in dichloromethane for the elution. There were obtained 82 mg of N-[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-(4-methoxyphenyl)butyl]-L-proline tert.butyl ester as a white solid; MS: m/e 613 [M+H]+.

reactant | N-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-(4-methoxyphenyl)butyl]-L-proline tert.butyl ester | 730 mg | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=C(C=C1)OC)NC(=O)OCC1=CC=CC=C1)O)=O | C28H38N2O6
reactant | N-(benzyloxycarbonyl)-L-asparagine | 340 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)O | C12H14N2O5
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 50 mg | [Pd] | Pd
product | N-[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-(4-methoxyphenyl)butyl]-L-proline tert.butyl ester | 82 mg | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=C(C=C1)OC)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(N)=O)=O)O)=O | C32H44N4O8
